US07517889B2
Lithium hydroxide (0.21 g, 5.01 mmol) is added to a solution of 4-(3-bromo-phenyl)-tetrahydro-pyran-4-carboxylic acid methyl ester (0.5 g, 1.67 mmol) in methanol/water (8 mL, 3:1) and the reaction mixture is stirred for 5 hours at 65° C. The mixture is diluted with water and the volatiles are removed in vacuo. The aqueous is extracted once with diethyl ether, acidified to pH 2, and extracted twice with ethyl acetate. The combined extracts is dried over magnesium sulfate, filtered and concentrated in vacuo to afford 4-(3-bromo-phenyl)-tetrahydro-pyran-4-carboxylic acid (445 mg) sed in the next step without further purification. LCMS: RT=1.9 minutes; MS: 283 (M−H).

reactant | Lithium hydroxide | 5.01 mmol, 0.21 g | [OH-].[Li+]
reactant | 4-(3-bromo-phenyl)-tetrahydro-pyran-4-carboxylic acid methyl ester | 1.67 mmol, 0.5 g | COC(=O)C1(CCOCC1)C1=CC(=CC=C1)Br | C13H15BrO3
solvent | methanol water | 8 mL | CO.O
solvent | water | O | H2O
product | 4-(3-bromo-phenyl)-tetrahydro-pyran-4-carboxylic acid | 445 mg | BrC=1C=C(C=CC1)C1(CCOCC1)C(=O)O | C12H13BrO3
